US06444668B1
A mixture of 3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-5-fluoro-benzonitrile (0.25 g, 0.84 mmol) and triethylorthoformate (50 mL) was heated at 160° C. for 12 hours. The excess triethylorthoformate was removed in vacuo and purification via chromatography (silica gel, 20% ethyl acetate/hexane) gave 3-(1-diethoxymethyl-4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluoro-benzonitrile (0.116 g, 33%) as a white solid: mp 123-124° C.; 1H-NMR (DMSO-d6) δ7.97 (d, 1H, J=8.68 Hz), 7.66 (bs, 1H), 7.53-7.44 (m, 2H), 7.35-7.32 (m, 2H), 6.65 (s, 1H), 3.88-3.78 (m, 2H), 3.73-3.61 (m, 2H), 1.77 (s, 6H), 1.27 (t, 6H, J=7.05 Hz); MS (ESI) m/z 295 ([M−H]−, 100%, lower MW ion consistent with loss of diethyl acetal); Anal. Calc. For C22H23FN2O4: C, 66.32, H, 5.82, N, 7.03. Found: C, 65.89, H, 5.92, N, 6.66.

reactant | 3-(4,4-Dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6yl)-5-fluoro-benzonitrile | 0.84 mmol, 0.25 g | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2O2
reactant | triethylorthoformate | 50 mL | C(C)OC(OCC)OCC | C7H16O3
product | 3-(1-diethoxymethyl-4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluoro-benzonitrile | 0.116 g, 33% | C(C)OC(N1C(OC(C2=C1C=CC(=C2)C=2C=C(C#N)C=C(C2)F)(C)C)=O)OCC | C22H23FN2O4
